US04454145
2,9-Diethyl-2,9-dimethyl-1,10-decanediol
A suspension of 1.6 grams (0.0425 mole) of lithium aluminum hydride in 40 ml of anhydrous diethyl ether was added, under vigorous stirring, with a solution of 4.87 grams (0.0170 mole) of 2,9-diethyl-2,9-dimethyl-1,10-decanedioic acid, and the resulting mixture was refluxed for 1 hour. After cooling to room temperature, the suspension was added with 12 ml of a 25% (v/v) aqueous solution of sulphuric acid. The obtained precipitate was removed by filtration and the filtrate was poured into 50 ml of a 20% aqueous solution of sodium carbonate under cooling and stirring. The organic layer was separated, washed with water, dried over anhydrous sodium sulphate and evaporated to dryness under vacuum. 4.0 Grams (90.5% of theoretical) of the chromatographycally pure title compound were obtained.

reactant | lithium aluminum hydride | 0.0425 mole, 1.6 grams | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2,9-diethyl-2,9-dimethyl-1,10-decanedioic acid | 0.0170 mole, 4.87 grams | C(C)C(C(=O)O)(CCCCCCC(C(=O)O)(C)CC)C | C16H30O4
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
product | 2,9-Diethyl-2,9-dimethyl-1,10-decanediol | C(C)C(CO)(CCCCCCC(CO)(C)CC)C | C16H34O2
